US04559339
Preparation of 7-[(1-[2(S)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione hemihydrate
7-[(2,3-Dihydro-1H-indol-3-yl)methyl]-quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione (50 mg, 0.122 mmole) was dissolved in 2 ml of dry dimethylformamide under nitrogen and treated at room temperature with 2-(S)-(1,1-dimethylethoxycarbonyl)amino-4-methylpentanoic acid (34 mg, 0.146 mmole), 1-hydroxybenzotriazole (20 mg, 0.146 mmole), and dicyclohexylcarbodiimide (30 mg, 0.146 mmole), respectively. The pH of the reaction mixture was adjusted to approximately 8 with triethylamine (20 μl) and the reaction was stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was washed with 10% citric acid and brine, then dried and concentrated. Silica gel chromatography (95:5 chloroform-methanol) afforded 23 mg of the analytical sample along with 19 mg recovered starting material.

reactant | 7-[(2,3-Dihydro-1H-indol-3-yl)methyl]-quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione | 0.122 mmole, 50 mg | N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O | C25H20N4O2
reactant | 2-(S)-(1,1-dimethylethoxycarbonyl)amino-4-methylpentanoic acid | 0.146 mmole, 34 mg | CC(C)(OC(=O)N[C@H](C(=O)O)CC(C)C)C | C11H21NO4
reactant | 1-hydroxybenzotriazole | 0.146 mmole, 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.146 mmole, 30 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 20 μl | C(C)N(CC)CC | C6H15N
product | 7-[(1-[2(S)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione hemihydrate | O.CC(C)(OC(=O)N[C@H](C(=O)N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C.CC(C)(OC(=O)N[C@H](C(=O)N2CC(C3=CC=CC=C23)CC2C=3N(C1=C(C(N2)=O)C=CC=C1)C(C=1C=CC=CC1N3)=O)CC(C)C)C | InChI=1S/2C36H39N5O5.H2O/c2*1-21(2)18-28(39-35(45)46-36(3,4)5)34(44)40-20-22(23-12-7-10-16-29(23)40)19-27-31-37-26-15-9-6-13-24(26)33(43)41(31)30-17-11-8-14-25(30)32(42)38-27;/h2*6-17,21-22,27-28H,18-20H2,1-5H3,(H,38,42)(H,39,45);1H2/t2*22?,27?,28-;/m00./s1
